US04336254
A solution of 141.8 g (1.48 mole) of guanidine hydrochloride, 59.3 g (1.48 m) of sodium hydroxide and 709 ml of water was added to a solution of 183.4 g (0.74 m) of 2,4,6-trichloropyrimidine in 2127 ml of acetone causing a mild exothermic reaction. After stirring for 1 hour at room temperature, a mixture of solid and oil had formed. Refrigeration caused complete crystallization. The crystals were filtered, then suspended in 1200 ml of water and stirred for 1 hour, filtered, washed with water, then acetone and air dried to give 53.0 g (35%) of 4,6-dichloro-2-guanidinopyrimidine, mp>360°.

reactant | guanidine hydrochloride | 1.48 mole, 141.8 g | Cl.NC(=N)N
reactant | sodium hydroxide | 59.3 g | [OH-].[Na+]
reactant | water | 709 ml | O | H2O
reactant | 2,4,6-trichloropyrimidine | 183.4 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
solvent | acetone | 2127 ml | CC(=O)C | C3H6O
product | 4,6-dichloro-2-guanidinopyrimidine | 53.0 g, 35% | ClC1=NC(=NC(=C1)Cl)NC(=N)N | C5H5Cl2N5
